US08492549B2
Intermediate A12: (R)-2,3-Dihydrobenzo[1,4]dioxin-2-yl-[(S*)-3-(4-trifluoromethylphenyl)-piperidin-1-yl]methanone
(R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl chloride (44 mg, 0.22 mmol) was dissolved in DCM (4 ml). 3-(4-Trifluoromethylphenyl)piperidine HCl (51 mg, 0.19 mmol) and triethylamine were added. The mixture was stirred for 1 h, 1 M HCl (2 ml) was added, and the phases were separated. The organic phase was absorbed on silica and the mixture purified by flash chromatography using heptane/EtOAc as eluent. The fractions containing the first eluting diastereomer were collected to yield 21 mg of A11.

reactant | (R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl chloride | 0.22 mmol, 44 mg | O1[C@H](COC2=C1C=CC=C2)C(=O)Cl | C9H7ClO3
reactant | 3-(4-Trifluoromethylphenyl)piperidine HCl | 0.19 mmol, 51 mg | Cl.FC(C1=CC=C(C=C1)C1CNCCC1)(F)F
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | HCl | 1 M, 2 ml | Cl | ClH
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | (R)-2,3-Dihydrobenzo[1,4]dioxin-2-yl-[(S*)-3-(4-trifluoromethylphenyl)-piperidin-1-yl]methanone | O1[C@H](COC2=C1C=CC=C2)C(=O)N2C[C@@H](CCC2)C2=CC=C(C=C2)C(F)(F)F | C21H20F3NO3
